US08247556B2
4-Chloro-1H-pyrrolo[2,3-b]pyridine (10.13 g, 66.4 mmol) was dissolved into DMAC (100 mL). This solution was filtered to remove insoluble particles. N2 was purged into the solution while adding the following reagents: 4.68 g Zn(CN)2, 1.476 g dppf, 0.519 g Zn, and 1.227 g Pd2(dba)3. The greenish brown mixture was heated to 150° C. for 4 h. After cooled to RT, the mixture was filtered through a pad of Celite® and silica to remove Zn and Pd. The pad was washed with EtOAc and CH2Cl2. The filtrate was concentrated and the residue was taken into 500 mL EtOAc. This organic solution was washed with 10% NH4OH (500 mL) and sat'd NaCl (500 mL), dried over Na2SO4, filtered and concentrated to afford a dark residue, which was taken into 100-200 mL of EtOAc and resulting precipitate of 1H-pyrrolo[2,3-b]pyridine-4-carbonitrile was collected.

reactant | 4-Chloro-1H-pyrrolo[2,3-b]pyridine | 66.4 mmol, 10.13 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | DMAC | 100 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 100-200 mL | CCOC(=O)C | C4H8O2
product | 1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | N1C=CC2=C1N=CC=C2C#N | C8H5N3
